US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-cyclopropylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.86 g, 6.5 mmol), 4-(4-cyclopropylpiperazin-1-yl)benzaldehyde (1.5 g, 6.5 mmol), mono-tert-butyl malonate (1.04 g, 6.5 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.02 g, 6.5 mmol) with stirring for 2 days and sodium tert.-butoxide (0.60 g, 5.4 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 6.5 mmol, 0.86 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4-cyclopropylpiperazin-1-yl)benzaldehyde | 6.5 mmol, 1.5 g | C1(CC1)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C14H18N2O
reactant | mono-tert-butyl malonate | 6.5 mmol, 1.04 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 6.5 mmol, 1.02 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 5.4 mmol, 0.60 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-cyclopropylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCN(CC2)C2CC2)=O)=O | C24H25N5O2
